US05654318
6-Benzyl-5,7-dioxo-octahydropyrrolo[3.4-b]pyridine
To 10 g of 6-benzyl-5,7-dihydro-5,7-dioxopyrrolo[3.4-b]pyridine were added 84 ml of 2-methoxyethanol and 1.5 g of a ruthenium-on-carbon catalyst, and hydrogenation was conducted under a pressurized hydrogen gas atmosphere at 4.5 kg/cm2 for 22 hours. The catalyst was removed by filtration, and the filtrate was concentrated. To the concentrate were added 84 ml of 2-methoxyethanol and 2 g of a palladium-on-charcoal catalyst, and hydrogenation was conducted under a pressurized hydrogen gas atmosphere at 4.5 kg/cm2 for 7 hours. The catalyst was removed by filtration, and the filtrate was concentrated to yield 10.4 g of the titled compound. Throughout the hydrogenation, the reaction vessel was heated by a tungsten lamp.

reactant | 6-benzyl-5,7-dihydro-5,7-dioxopyrrolo[3.4-b]pyridine | 10 g | C(C1=CC=CC=C1)N1C(C2=NC=CC=C2C1=O)=O | C14H10N2O2
catalyst | ruthenium-on-carbon | 1.5 g | [Ru] | Ru
solvent | 2-methoxyethanol | 84 ml | COCCO | C3H8O2
product | 6-Benzyl-5,7-dioxo-octahydropyrrolo[3.4-b]pyridine | 10.4 g | C(C1=CC=CC=C1)N1C(C2NCCCC2C1=O)=O | C14H16N2O2
